US07101886B2
1-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-2-(4,5-DIMETHOXY-2-NITRO-PHENYL)-ETHANONE
3-piperazin-1-yl-benzoisothiazole hydrochloride (5.29 g, 20.7 mmol) and 4,5-dimethoxy-2-nitrophenylacetic acid (5 g, 20.7 mmol) were combined in 200 mL methylene chloride with triethylamine (5.77 mL, 41.4 mmol). This solution stirred for 15 min before bis-(2-oxo-3-oxazolidinyl) phosphinic chloride (5.26 g, 20.7 mmol) was added. After stirring overnight at rt, the reaction was quenched with water and extracted into methylene chloride. The organic layer was washed with 0.5 N HCl, water, sodium bicarbonate then water before it was dried over Na2SO4 and concentrated. The residue was taken up in methylene chloride and washed with water. The organic layer was dried over sodium sulfate, and concentrated then purified by MPLC using a Biotage prepacked silica gel cartridge eluting with 3% methanol in methylene chloride to afford 6.5 g of a tan solid. Yield 71%; 100% purity at 214 nm; LCMS (APCI): 443 [M+H]+; mp 170° C.

reactant | 3-piperazin-1-yl-benzoisothiazole hydrochloride | 20.7 mmol, 5.29 g | Cl.N1(CCNCC1)C1=NSC2=C1C=CC=C2
reactant | 4,5-dimethoxy-2-nitrophenylacetic acid | 20.7 mmol, 5 g | COC1=CC(=C(C=C1OC)CC(=O)O)[N+](=O)[O-] | C10H11NO6
reactant | triethylamine | 41.4 mmol, 5.77 mL | C(C)N(CC)CC | C6H15N
reactant | bis-(2-oxo-3-oxazolidinyl) phosphinic chloride | 20.7 mmol, 5.26 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-2-(4,5-DIMETHOXY-2-NITRO-PHENYL)-ETHANONE | 6.5 g, Yield 71% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)C(CC2=C(C=C(C(=C2)OC)OC)[N+](=O)[O-])=O | C21H22N4O5S
